US06333358B1
To a solution of 3.43 ml of acetic acid and 8.36 ml of triethylamine in 90 ml of benzene was added 12.9 ml of diphenylphosphoryl azide, followed by reflux under heating for 2 hours. To the reaction solution was added 2.01 g of N-(2,5-dimethoxybenzyl)-2-phenoxyaniline synthesized in the same manner as in Example 2(1), followed by reflux under heating for 6 hours. The reaction mixture was poured into water, and the organic phase was separated, washed with 5% hydrochloric acid, a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, successively, and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the solvent was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate-hexane=1:2) and recrystallized from diethyl ether to give 1.20 g of N-(2,5-dimethoxybenzyl)-N-(N-methylaminocarbonyl)-2-phenoxyaniline.

reactant | acetic acid | 3.43 ml | C(C)(=O)O | C2H4O2
reactant | triethylamine | 8.36 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 12.9 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | N-(2,5-dimethoxybenzyl)-2-phenoxyaniline | 2.01 g | COC1=C(CNC2=C(C=CC=C2)OC2=CC=CC=C2)C=C(C=C1)OC | C21H21NO3
solvent | benzene | 90 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | N-(2,5-dimethoxybenzyl)-N-(N-methylaminocarbonyl)-2-phenoxyaniline | 1.20 g | COC1=C(CN(C2=C(C=CC=C2)OC2=CC=CC=C2)C(=O)NC)C=C(C=C1)OC | C23H24N2O4
